US07186742B2
2-Chloro-5-(5-cyclopropyl-1H-pyrazol-3-yl)-N-(1-hydroxy-cycloheptylmethyl)-benzamide
A mixture of 2-chloro-5-(5-cyclopropyl-1H-pyrazol-3-yl)-benzoic acid (0.06 g, 0.23 mmol), 1-aminomethyl-cycloheptanol ((0.082 g, 0.46 mmol), polystyrene supported carbonyldiimidazole (0.37 g, 0.46 mmol), polystyrene supported dimethylaminopyridine (0.32 g, 0.46 mmol) and 1-hydroxybenztriazole (0.06 g, 0.46 mmol) in N,N-dimethylformamide (3 mL) was shaken at room temperature for 16 h. MP-carbonate was added (0.5 g) and the resulting mixture was shaken at room temperature for 2 h. The mixture was filtered and the filtrate was concentrated in vacuo. the residue was purified by reverse phase chromatography to afford the title compound (0.02 g). LCMS (m/z) 388.4 M+1.

reactant | 2-chloro-5-(5-cyclopropyl-1H-pyrazol-3-yl)-benzoic acid | 0.23 mmol, 0.06 g | ClC1=C(C(=O)O)C=C(C=C1)C1=NNC(=C1)C1CC1 | C13H11ClN2O2
reactant | 1-aminomethyl-cycloheptanol | NCC1(CCCCCC1)O | C8H17NO
reactant | carbonyldiimidazole | 0.46 mmol, 0.37 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylaminopyridine | 0.46 mmol, 0.32 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-hydroxybenztriazole | 0.46 mmol, 0.06 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | carbonate | C([O-])([O-])=O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-Chloro-5-(5-cyclopropyl-1H-pyrazol-3-yl)-N-(1-hydroxy-cycloheptylmethyl)-benzamide | 0.02 g | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C1=NNC(=C1)C1CC1 | C21H26ClN3O2
